US08580399B2
Dibenzo[b,d]thiophen-4-yl-boronic acid (10.00 g, 43.8 mmol), 1,3-dibromobenzene (20.69 g, 88 mmol) and Pd(PPh3)4 catalyst (0.507 g, 0.438 mmol) were dissolved in 200 mL of toluene, and potassium carbonate (18.18 g, 132 mmol) in 50 mL of water was added, and the mixture was refluxed overnight under N2. The mixture was cooled to room temperature, and the organic layer was separated, filtered and evaporated. The residue after evaporation was purified by column chromatography on silica gel (eluted with hexane/DCM 95/5 v/v mixture), followed by recrystallization from hexane. 4-(3-bromophenyl)dibenzo[b,d]thiophene was obtained as white solid (12 g, 81% yield).

reactant | Dibenzo[b,d]thiophen-4-yl-boronic acid | 43.8 mmol, 10.00 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)B(O)O | C12H9BO2S
reactant | 1,3-dibromobenzene | 88 mmol, 20.69 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | potassium carbonate | 132 mmol, 18.18 g | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.438 mmol, 0.507 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | 4-(3-bromophenyl)dibenzo[b,d]thiophene | BrC=1C=C(C=CC1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C18H11BrS
